* AnalogGenie 80

R1 (VDD VOUT2) resistor
R1 (VDD VOUT1) resistor
M5 (net8 VCONT1 IB1 VSS) nmos4
M4 (net15 VCONT2 IB1 VSS) nmos4
M3 (VOUT1 VIN4 net15 VSS) nmos4
M2 (VOUT2 VIN3 net15 VSS) nmos4
M1 (VOUT2 VIN2 net8 VSS) nmos4
M0 (VOUT1 VIN1 net8 VSS) nmos4